US04825005
A 1 liter reactor is charged with 300 ml of methyl isobutyl ketone, 73.1 g of 3-diethylaminophenol and 153.3 g of ground potassium carbonate and the mixture is stirred for 30 minutes. Then 72.7 g of ethyl bromide are introduced into the autoclave, which is then closed and heated for 3 hours to 115°-120° C. The temperature is then kept for a further 5 hours at 140°-142° C. (pressure: 5 bar). The contents of the autoclave are cooled to c. 25° C. and potassium bromide is removed by filtration. After washing with a small amount of methyl isobutyl ketone, the combined filtrates are concentrated by evaporation, to give 75.6 g (91.1% yield) of 3-diethylaminophenetol with a titre of 96.9%.

reactant | 3-diethylaminophenol | 73.1 g | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 72.7 g | C(C)Br | C2H5Br
solvent | methyl isobutyl ketone | 300 ml | C(C(C)C)C(=O)C | C6H12O
product | 3-diethylaminophenetol | 75.6 g, 91.1% yield | C(C)N(C=1C=C(C=CC1)OCC)CC | C12H19NO
